US07820665B2
N-(6-(6-Chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide
A sealable vial was charged with N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide (27.0 mg, 42.5 μmol), 3-pyridylboronic acid (6.27 mg, 51.0 μmol), and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) (2.36 mg, 4.25 μmol). The vial was sealed and 1,4-dioxane (1 mL) was added under positive N2 flow. Then an aqueous solution of sodium carbonate (1.9 M, 89.5 μl, 170 μmol) was added via syringe. The resulting solution was sparged with N2 for 10 minutes, then heated at 90° C. for 18 h. The solution was cooled to rt and directly absorbed onto a 5 g silica loading cartridge and passed through a Redi-Sep® pre-packed silica gel column (Teledyne Isco, Lincoln, Nebr.) (12 g) using a gradient of 1% MeOH in CH2Cl2 to 10% MeOH in CH2Cl2 to afford the title compound N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide as a yellow solid. LCMS (ESI positive ionization) m/z: 586 (M+1); 1H NMR (400 MHz, MeOH) δ ppm 2.18 (s, 3H); 6.81 (t, J=73.11 Hz, 1H); 7.32-7.40 (m, 1H); 7.48 (t, J=8.02 Hz, 1H); 7.53-7.57 (m, 1H); 7.58-7.63 (m, 1H); 7.67 (dd, J=7.87, 5.04 Hz, 1H); 7.90 (d, J=9.49 Hz, 1H); 8.15 (d, J=9.49 Hz, 1H); 8.47 (d, J=8.02 Hz, 1H); 8.60 (d, J=3.52 Hz, 1H); 8.64 (d, J=2.25 Hz, 1H); 8.77 (d, J=2.25 Hz, 1H); 8.97 (s, 1H).

reactant | N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | 42.5 μmol, 27.0 mg | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C(=C(N2)NC(C)=O)I)NS(=O)(=O)C2=CC(=CC=C2)OC(F)F | C20H14ClF2IN6O4S
reactant | 3-pyridylboronic acid | 51.0 μmol, 6.27 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 170 μmol, 1.9 M, 89.5 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) | 4.25 μmol, 2.36 mg | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C(=C(N2)NC(C)=O)C=2C=NC=CC2)NS(=O)(=O)C2=CC(=CC=C2)OC(F)F | C25H18ClF2N7O4S
